US08067445B2
Step 7: {2′-[(Acetyl-methyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid
{2′-[(Acetyl-methyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester (0.038 g, 0.09 mmol) was dissolved in THF (0.38 mL), MeOH (0.3 mL), and aqueous 1N NaOH (0.2 mL), and the mixture was stirred at room temperature for 1 hour. Once no starting material was seen by analytical LCMS, the mixture was diluted with CH2Cl2 and H2O, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC. The desired fractions were combined, concentrated, and the isolated material was diluted with CH2Cl2 and neutralized with saturated aqueous NaHCO3. The organic layer was separated, dried over MgSO4, filtered, and concentrated to give the title compound. The aqueous layer was acidified and extracted with EtOAc, and the organic layer was concentrated to give additional product. M+H is 396.

reactant | {2′-[(Acetyl-methyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | 0.09 mmol, 0.038 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C)C(C)=O)=O | C21H22F3NO4
reactant | MeOH | 0.3 mL | CO | CH4O
reactant | NaOH | 1N, 0.2 mL | [OH-].[Na+]
solvent | THF | 0.38 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | {2′-[(Acetyl-methyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | C(C)(=O)N(C)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O | C20H20F3NO4
